US09079866B2
Step A: 2-(2-Bromophenylthio)acetonitrile
A mixture of 2-bromobenzenethiol (6.3 mL, 53 mmol), K2CO3 (13.8 g, 100 mmol) and 2-chloroacetonitrile (3.2 mL, 50 mmol) in DMF (50 mL) was stirred at 25° C. for 6 h, poured into water (700 mL), and extracted with petroleum ether (300 mL) followed by DCM (2×200 mL). The combined DCM extracts were concentrated to dryness, and re-dissolved in petroleum ether/ethyl acetate (10:1, 600 mL). The organic solution was washed with water (250 mL) and brine (250 mL), dried over Na2SO4, filtered and concentrated to dryness to give the title compound (11 g, 85%). 1H NMR (300 MHz, CDCl3) δ 7.67 (dd, J=7.8, 1.5, 1H), 7.60 (dd, J=7.8, 1.5, 1H), 7.41 (m, 1H), 7.25 (m, 1H), 3.68 (s, 2H).

reactant | 2-bromobenzenethiol | 53 mmol, 6.3 mL | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | K2CO3 | 100 mmol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroacetonitrile | 50 mmol, 3.2 mL | ClCC#N | C2H2ClN
reactant | water | 700 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(2-Bromophenylthio)acetonitrile | 11 g, 85% | BrC1=C(C=CC=C1)SCC#N | C8H6BrNS
